US08530461B2
(S)-3-(1-{4-[3-(4-Ethoxy-2-fluoro-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-1,1-dimethyl-urea
Under an argon atmosphere a mixture of 0.080 g (0.295 mmol) (S)-3-[1-(4-bromo-phenyl)-ethyl]-1,1-dimethyl-urea (II.1), 0.073 g (0.295 mmol) 3-(4-ethoxy-2-fluoro-phenoxy)-azetidine (IX.2), 0.117 g (97%, 1.18 mmol) NaOtBu, 0.0035 g (0.118 mmol) 2-(di-tert-butylphosphino)biphenyl, 0.027 g (0.0295 mmol) tris-(dibenzylideneaceton)-dipalladium(0) in 1.5 mL 1,4-dioxane is stirred for 3 h at 80° C. Few water and methanol is added, the mixture is filtered and concentrated in vacuo. The residue is purified by HPLC (GeminiC18, methanol/water (+0.3% NH4OH)) to yield the desired product.

reactant | (S)-3-[1-(4-bromo-phenyl)-ethyl]-1,1-dimethyl-urea | 0.295 mmol, 0.080 g | BrC1=CC=C(C=C1)[C@H](C)NC(N(C)C)=O | C11H15BrN2O
reactant | 3-(4-ethoxy-2-fluoro-phenoxy)-azetidine | 0.295 mmol, 0.073 g | C(C)OC1=CC(=C(OC2CNC2)C=C1)F | C11H14FNO2
reactant | NaOtBu | 1.18 mmol, 0.117 g | CC(C)(C)[O-].[Na+]
reactant | 2-(di-tert-butylphosphino)biphenyl | 0.118 mmol, 0.0035 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | tris-(dibenzylideneaceton)-dipalladium(0) | 0.0295 mmol, 0.027 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | (S)-3-(1-{4-[3-(4-Ethoxy-2-fluoro-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-1,1-dimethyl-urea | C(C)OC1=CC(=C(OC2CN(C2)C2=CC=C(C=C2)[C@H](C)NC(N(C)C)=O)C=C1)F | C22H28FN3O3
